US05393875
Analogously to the procedure described by Wang et al. in Synthesis 1989, 37 a mixture of 15.34 g (40mmol) of (S)-α-[[[(1-methyl-1-(morpholinocarbonyl)ethyl]sulfonyl]methyl]hydrocinnamic acid, 9.29 g (40 mmol) of dicyclohexylcarbodiimide and 6.89 g (50 mmol) of HOBT in 160 ml of methylene chloride and 40 ml of dimethylformamide was stirred at room temperature for 4 hours. Thereafter, the reaction mixture was filtered, the yellowish solution obtained was diluted with 200 ml of methylene chloride and cooled to 0°. Ammonia was conducted into this solution until it was saturated. The suspension obtained was stirred at room temperature for 1 hour. Subsequently, the solid formed was filtered off under suction and washed with 100 ml of methylene chloride. The yellow coloured filtrate was then washed twice with in each case 200 ml of water and twice with 200 ml of saturated sodium chloride solution. The wash solutions were extracted with 500 ml of methylene chloride. The combined organic phases were dried over sodium sulphate and thereafter evaporated under reduced pressure. For purification, the yellowish crude product obtained (15.3 g) was chromatographed on 1.3 kg of silica gel using a 4:1 mixture of ethyl acetate and hexane as the eluent. There were obtained 13.6 g of (S)-α-[[[(1-methyl-1-(morpholinocarbonyl)ethyl]sulfonyl]methyl]hydrocinnamamide as a colourless powder, MS: 383 (M+H)+.

reactant | [[(1-methyl-1-(morpholinocarbonyl)ethyl]sulfonyl]methyl]hydrocinnamic acid | CC(C)(C(=O)N1CCOCC1)S(=O)(=O)CC(C(=O)O)CC1=CC=CC=C1 | C18H25NO6S
reactant | dicyclohexylcarbodiimide | 40 mmol, 9.29 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | HOBT | 50 mmol, 6.89 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Ammonia | N | H3N
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | [[(1-methyl-1-(morpholinocarbonyl)ethyl]sulfonyl]methyl]hydrocinnamamide | CC(C)(C(=O)N1CCOCC1)S(=O)(=O)CC(C(=O)N)CC1=CC=CC=C1 | C18H26N2O5S
